US06153768
Synthesis of (3RS, 4RS)-4-(4-t-butyldimethylsilyloxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman
To dichloromethane solution (30 ml) of 4-(4-t-butyldimethylsilyloxyphenyl)-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman (1.134 g, 1.95 mmol) were added zinc iodide (1.367 g, 4.9 mmol) and sodium cyanoborohydride (797 mg, 12.7 mmol), and the resulting mixture was stirred for 2 hours at room temperature. After adding acetone (5 ml) and water, the reaction solution was extracted with dichloromethane and the organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the organic solvent. The crude product thus obtained was purified with silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 783 mg (yield: 71%) of the title compound.

reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | 4-(4-t-butyldimethylsilyloxyphenyl)-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman | 1.95 mmol, 1.134 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1(C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)O | C32H42O6SSi
reactant | sodium cyanoborohydride | 12.7 mmol, 797 mg | C(#N)[BH3-].[Na+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
catalyst | zinc iodide | 4.9 mmol, 1.367 g | [I-].[Zn+2].[I-]
solvent | water | O | H2O
product | (3RS, 4RS)-4-(4-t-butyldimethylsilyloxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman | 783 mg, yield: 71% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C32H42O5SSi
